US06187914B1
2) Synthesis of 5′-O-p-Nitrobenzoyl-2-N-Isobutyryldeoxyguanosine
The synthesis of this product is carried out by reacting 1.1 eq of p-nitrobenzoyl chloride with 2-N-isobutyryldeoxyguanosine for 16 hours in pyridine. After extraction with a dichloromethane/sodium bicarbonate mixture and evaporation to dryness, the product is taken up in chloroform. This product was not used because it was too insoluble.

reactant | p-nitrobenzoyl chloride | 1.1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 2-N-isobutyryldeoxyguanosine | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N1)=O | C14H19N5O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5′-O-p-Nitrobenzoyl-2-N-Isobutyryldeoxyguanosine | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@H](C[C@@H](O2)N2C=NC=3C(=O)NC(NC(C(C)C)=O)=NC23)O)C=C1 | C21H22N6O8
